US04880797
1.0 g (1.4 mmol) of 2-[3,4-di(2-methoxyethoxymethoxy)benzyloxyimino]-2-(2-tritylaminothiazol-4-yl)acetic acid (syn-isomer) and 0.56 g (1.4 mmol) of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate were dissolved in 0.77 ml (6.3 mmol) of N,N-dimethylaniline at 0° C., and 0.12 ml (1.7 mmol) of phosphorus oxychloride was dropwise added thereto. The mixture was stirred for 30 minutes and the reaction solution was washed with sequentially with 1N hydrochloric acid, a 10% sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution. The water layer was further extracted with ethyl acetate, and the organic layer was added thereto. After drying over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to obtain benzhydryl 3-chloromethyl-7-{2-[3,4-di(2-methoxyethoxymethoxy)benzyloxyimino]-2-(2-tritylaminothiazol-4-yl)acetamido}-3-cephem-4-carboxylate (syn-isomer), which was used for the next reaction without purification.

reactant | 2-[3,4-di(2-methoxyethoxymethoxy)benzyloxyimino]-2-(2-tritylaminothiazol-4-yl)acetic acid | 1.4 mmol, 1.0 g | COCCOCOC=1C=C(CON=C(C(=O)O)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1OCOCCOC | C39H41N3O9S
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 1.4 mmol, 0.56 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | N,N-dimethylaniline | 6.3 mmol, 0.77 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 1.7 mmol, 0.12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | benzhydryl 3-chloromethyl-7-{2-[3,4-di(2-methoxyethoxymethoxy)benzyloxyimino]-2-(2-tritylaminothiazol-4-yl)acetamido}-3-cephem-4-carboxylate | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOCC2=CC(=C(C=C2)OCOCCOC)OCOCCOC)=O)=O | C60H58ClN5O11S2
